US07429597B2
6-chloro-4-{(1R/S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-[(1R/S)-1-phenyl-ethylamino-carbonyl]-propyl-amino}-7-(pyrrolidin-1-yl-carbonyl)-quinazoline
Prepared analogously to Example 61 from 6-chloro-4-[1-(1-tert.-butyloxycarbonyl-5-chloro-1H-benzimidazol-2-yl)-3-hydroxycarbonyl-propyl-amino]-7-(pyrrolidin-1-yl-carbonyl)-quinazoline and 1-phenyl-ethylamine with TBTU in acetonitrile/tetrahydrofuran and subsequent reaction with trifluoroacetic acid.

reactant | 6-chloro-4-[1-(1-tert.-butyloxycarbonyl-5-chloro-1H-benzimidazol-2-yl)-3-hydroxycarbonyl-propyl-amino]-7-(pyrrolidin-1-yl-carbonyl)-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)N1CCCC1)NC(CCC(=O)O)C1=NC2=C(N1C(=O)OC(C)(C)C)C=CC(=C2)Cl | C29H30Cl2N6O5
reactant | 1-phenyl-ethylamine | C1(=CC=CC=C1)C(C)N | C8H11N
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile tetrahydrofuran | C(C)#N.O1CCCC1
product | 6-chloro-4-{(1R/S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-[(1R/S)-1-phenyl-ethylamino-carbonyl]-propyl-amino}-7-(pyrrolidin-1-yl-carbonyl)-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)N1CCCC1)NC(CCC(=O)NC(C)C1=CC=CC=C1)C1=NC2=C(N1)C=CC(=C2)Cl | C32H31Cl2N7O2
